US04996341
Synthesis of diphenylisopropylchlorosilane
Into 200 ml of dry THF was dissolved 160 g (0.63 mole) of diphenyldichlorosilane. To this was added dropwise 450 ml (0.90 mole) of a 2.0 M solution of isopropylmagnesium chloride in THF at a room temperature over 20 minutes. A mildly ethothermic reaction was observed. After the conclusion of the dropwise addition, the reaction mixture was refluxed for 3 days. The formed salt and the solvent were removed from the reaction mixture. The residue was distilled under a reduced pressure to give 130 g of a colorless clear liquid (b.p. 116° to 118° C./0.22 Torr).

reactant | diphenyldichlorosilane | 0.63 mole, 160 g | C1(=CC=CC=C1)[Si](Cl)(Cl)C1=CC=CC=C1 | C12H10Cl2Si
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | diphenylisopropylchlorosilane | 130 g | C1(=CC=CC=C1)[Si](Cl)(C(C)C)C1=CC=CC=C1 | C15H17ClSi
